US08278336B2
Step 2: 1-[4′-(4,5-Difluoro-2,3-dihydro-indole-1-carbonyl)-6′-methoxy-3,4,5,6-tetra-hydro-2H-[1,2]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
0.982 g (4.50 mmol) 1-Piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one and 500 mg (1.54 mmol) (2-chloro-6-methoxy-pyridin-4-yl)-(4,5-difluoro-2,3-dihydro-indol-1-yl)-methanone in 3.0 mL NMP were stirred for 12 h at 130° C. After the reaction mixture had cooled to RT the precipitate formed was filtered off and purified by preparative HPLC. The product-containing fractions were combined and lyophilised.

reactant | 1-Piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 4.50 mmol, 0.982 g | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | (2-chloro-6-methoxy-pyridin-4-yl)-(4,5-difluoro-2,3-dihydro-indol-1-yl)-methanone | 1.54 mmol, 500 mg | ClC1=NC(=CC(=C1)C(=O)N1CCC2=C(C(=CC=C12)F)F)OC | C15H11ClF2N2O2
solvent | NMP | 3.0 mL | CN1CCCC1=O | C5H9NO
product | 1-[4′-(4,5-Difluoro-2,3-dihydro-indole-1-carbonyl)-6′-methoxy-3,4,5,6-tetra-hydro-2H-[1,2]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | FC1=C2CCN(C2=CC=C1F)C(=O)C1=CC(=NC(=C1)OC)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C26H24F2N6O3
